US07091214B2
Under a nitrogen atmosphere, triphenylphosphine (0.0409 g, 0.156 mmol), 2 M aqueous sodium carbonate (18.3 mL, 36.5 mmol) and a solution of palladium (II) acetate (0.0117 g, 0.52 mmol) in warm toluene were added to a solution of 7-bromo-2-ethoxymethyl-1-(2-piperazin-1-ylethyl)-1H-imidazo[4,5-c]quinolin-4-amine dihydrochloride (5.28 g, 10.4 mmol) and pyridine-3-boronic acid 1,3-propanediol cyclic ester (1.87 g, 11.5 mmol) in n-propanol (8 mL). The reaction was heated at reflux under nitrogen for three hours then allowed to cool to ambient temperature. Deionized water was added, and organic solvent was removed under reduced pressure. The aqueous mixture was extracted with ethyl acetate (3×), and the combined organic fractions were washed sequentially with 2 M aqueous sodium carbonate and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was combined with material from another run and purified by flash column chromatography on silica gel (eluting with chloroform:methanol in a gradient from 90:10 to 50:50 and 50:50 chloroform:CMA) to provide 3.54 g of 2-ethoxymethyl-1-(2-piperazin-1-ylethyl)-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, mp 208–211° C.

reactant | sodium carbonate | 36.5 mmol, 2 M, 18.3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 7-bromo-2-ethoxymethyl-1-(2-piperazin-1-ylethyl)-1H-imidazo[4,5-c]quinolin-4-amine dihydrochloride | 10.4 mmol, 5.28 g | Cl.Cl.BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCN3CCNCC3)COCC
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 11.5 mmol, 1.87 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | n-propanol | 8 mL | C(CC)O | C3H8O
catalyst | palladium (II) acetate | 0.52 mmol, 0.0117 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.156 mmol, 0.0409 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-ethoxymethyl-1-(2-piperazin-1-ylethyl)-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.54 g | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)C=2C=NC=CC2)N)N1)CCN1CCNCC1 | C24H29N7O
